US07375115B2
Dimethyl 3-[1-(2-hydroxyethyl)cyclohexyl]-1,1-propanedicarboxylate
To a solution of dimethyl 3-[1-(2-(tert-butyldiphenylsiloxy)ethyl)cyclohexyl]-1,1-propanedicarboxylate (500 mg) in tetrahydrofuran (10 mL) was added a 1M tetrabutylammonium fluoride/tetrahydrofuran solution (1.9 mL) at room teperature. The solution was stirred at room temperature for 3 hours. Water was added to the solution, and it was extracted with ethyl acetate. The organic layer was washed in turn with an aqueous ammonium chloride solution, and saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then, concentrated under reduced pressure. The resulting residue was purified by chromatography (silica gel, hexane:ethyl acetate=1:1) to give the title compound (180 mg).

reactant | dimethyl 3-[1-(2-(tert-butyldiphenylsiloxy)ethyl)cyclohexyl]-1,1-propanedicarboxylate | 500 mg | O([Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CCC1(CCCCC1)CCC(C(=O)OC)C(=O)OC | C31H44O5Si
reactant | tetrabutylammonium fluoride tetrahydrofuran | 1M, 1.9 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC.O1CCCC1
reactant | Water | O | H2O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | Dimethyl 3-[1-(2-hydroxyethyl)cyclohexyl]-1,1-propanedicarboxylate | 180 mg | OCCC1(CCCCC1)CCC(C(=O)OC)C(=O)OC | C15H26O5
